US07459451B2
tert-Butyl {[1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]methoxy}acetate (50 mg) was dissolved in 80% trifluoroacetic acid-DCM (2 ml) and stirred at room temperature for 30 minutes. Solvent was evaporated and the residue was purified by flash column chromatography on silica gel (CHCl3-MeOH 95:5) to give {[1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]methoxy}acetic acid (25 mg) as colorless solid.

reactant | tert-Butyl {[1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]methoxy}acetate | 50 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)COCC(=O)OC(C)(C)C)COC | C23H30N4O4
solvent | trifluoroacetic acid DCM | 2 ml | FC(C(=O)O)(F)F.C(Cl)Cl
product | {[1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]methoxy}acetic acid | 25 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)COCC(=O)O)COC | C19H22N4O4
